US07741321B2
To a suspension of LAH (2.8 g, 74 mmol) in THF (20 mL) was added dropwise a solution of 2,3-dihydro-benzo[1,4]dioxine-6-carboxylic acid ethyl ester (15 g, 72 mmol) in THF (10 mL) at 0° C. under N2. The mixture was stirred at room temperature for 1 h and then quenched carefully with addition of water (2.8 mL) and NaOH (10%, 28 mL) with cooling. The precipitated solid was filtered off and the filtrate was evaporated to dryness to obtain (2,3-dihydro-benzo[1,4]dioxin-6-yl)-methanol (10.6 g). 1H NMR (300 MHz, DMSO-d6) δ 6.73-6.78 (m, 3H), 5.02 (t, J=5.7 Hz, 1H), 4.34 (d, J=6.0 Hz, 2H), 4.17-4.20 (m, 4H).

reactant | LAH | 74 mmol, 2.8 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 2,3-dihydro-benzo[1,4]dioxine-6-carboxylic acid ethyl ester | 72 mmol, 15 g | C(C)OC(=O)C1=CC2=C(OCCO2)C=C1 | C11H12O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (2,3-dihydro-benzo[1,4]dioxin-6-yl)-methanol | 10.6 g | O1CCOC2=C1C=CC(=C2)CO | C9H10O3
